US07176242B2
A solution of 7-bromoisoquinoline (1.80 g, 8.65 mmol) and cuprous cyanide (1.16 g, 12.97 mmol) in N-methyl pyrrolidinone (17 mL) was heated to 200° C. for 2 h. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and water. The aqueous phase was back-extracted with additional ethyl acetate and the combined organic layers were washed with saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to yield 7-cyano-isoquinoline (770 mg): 1H NMR (300 MHz, CDCl3) δ 9.35 (s, 1H), 8.70 (d, J=5 Hz, 1H), 8.40 (s, 1H), 7.95 (d, J=8 Hz, 1H), 7.84 (d, J=8 Hz, 1H), 7.73 (d, J=5 Hz, 1H); ESI MS m/z 155 [M+H]+.

reactant | 7-bromoisoquinoline | 8.65 mmol, 1.80 g | BrC1=CC=C2C=CN=CC2=C1 | C9H6BrN
reactant | N-methyl pyrrolidinone | 17 mL | CN1CCCC1=O | C5H9NO
product | 7-cyano-isoquinoline | 770 mg | C(#N)C1=CC=C2C=CN=CC2=C1 | C10H6N2
